Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
S/p fall, UTI
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ yo F with Hx of cerebellar ataxia ___ acoustic 
neuroma, multiple falls and hip fracture repair who presented 
from assisted living s/p unwitnessed fall. Patient is a poor 
historian; however, she recalls losing her balance while walking 
to the bathroom while using a walker. Patient reports concern 
re: injury of right hand, pain in R cheek, and cut to R upper 
lip w/o dental injury, for which she received stitches. Pt 
denies chest pain, sob, dizziness, abdominal pain, fevers, 
chills, n/v/d, hematuria. Patient endorses dysuria.

Per discussion with patient's son (a physician), patient has hx 
of multiple falls due to cerebellar ataxia ___ acoustic neuroma 
resection w/ ___ falls in the past year. He also reports that 
patient received a hip fracture repair w/ pins 3 or ___ years ago. 
Son says her fall today is similar to previous episodes. He 
reports her current mental status is at baseline and denies 
witnessing any confusion, lucid interval, etc.

In the ED, initial vitals were: 97.7 84 170/87 18 96%RA
Exam notable for: bruising/swelling of R cheek and eyebrow, 
laceration to upper lip, multiple abrasions on b/l knees, R 
ankle swelling
Labs notable for:
-Uptrending troponins 0.06 -> 0.1
-U/A (+)leuks, (+)nitrites, 46WBC
-Lactate 1.5
-CHEM-7, CBC wnl
Imaging notable for:
-CT C-spine w/o contrast (___): IMPRESSION: Multilevel 
degenerative changes as noted above, but no evidence of fracture 
or traumatic malalignment. 
-CT Head (___): IMPRESSION: 1. Postsurgical changes in the 
left cerebellar hemisphere as well as evidence of prior 
suboccipital craniectomy. 2. Sequela of prior infarct in the 
right frontal lobe. 3. No evidence of acute hemorrhage or 
traumatic injury to the calvarium or intracranial structures
-R ankle x-ray (___): IMPRESSION: No displaced fracture or 
dislocation of the right ankle. Severe osteopenia 
-Pelvis A/P (___): IMPRESSION: 1. No acute displayed 
fracture of the pelvis 2. Osseous demineralization and 
multifocal osteoarthritic changes, as described above.
-CXR (___): IMPRESSION: 1. No acute displayed fracture of 
the pelvis, 2. Osseous demineralization and multifocal 
osteoarthritic changes, as described above. 
-ECG ___ x2): NSR, prolonged PR interval
Patient was given:  
___ 09:55 IV CeftriaXONE 1 gm  
___ 10:10 BOTH EYES Artificial Tears 2 DROP  
___ 14:15 PO Aspirin 324 mg 
Cardiology was consulted in the ED and no further interventions 
were recommended.
Decision was made to admit for UTI in the setting of 
waxing/waning mental status. 

On the floor, patient and patient's son relay history as above. 
Son wonders if GI should be involved during her stay, given she 
has diaphragmatic hernia and dysphagia for solid foods (liquids 
okay). Both son and patient also express concern over patient's 
current assisted living facility given her frequent recurrent 
falls. They request social work to help connect her to a 
different assisted living facility. Finally, patient reports she 
feels frightened for her death and that she feels remorse over 
the mistakes she has made. 

Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel 
habits. 
 
Past Medical History:
Multiple falls with hip fracture 3 or ___ yrs ago s/p hip pinning
L eye corneal scarring
R eye central vision alteration
Acoustic neuroma s/p resection w/ cerebellar ataxia
? Suboccipital craniectomy w/ surgery of left cerebellar 
hemisphere
? Right frontal lobe infarction
Hiatal Hernia (per son)
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
ADMISSION
VS:  99 139/78 79 17 97%RA
Gen: NAD, anxious appearing 
HEENT: Red, corneal scarring of left eye. Neck supple, no LAD. 
CV: RRR, decreased heart sounds, +S1 S2, no m/f/r
Pulm: CTAB/L
Abd: Bowel sounds present, ND/NT, no hepatosplenomegaly
Ext: Moderately erythematous and swollen on R medial aspect of 
ankle, no TTP.
Skin: Bruising of both knees, especially on the L. Stitched 
upper inner lip and dressed right hand. 
Neuro: ___ strength of TA and gastroc bilaterally.
Psych:  Oriented x3. Alert and attentive. Poor historian but 
able to relate basic history. Good comprehension and articulate, 
fluent speech. No confusion or AMS noted.

DISCHARGE
VS: Tcurr 98.5, Tmax 98.6, SBP 138-153, DBP 70-83, HR 58-86, RR 
___, O2 95-98% RA
Gen: NAD, alert, interactive, anxious appearing
HEENT: Red, corneal scarring of left eye. Neck supple, no LAD. 
CV: RRR, decreased heart sounds, +S1 S2, no m/f/r
Pulm: Clear to auscultation bilaterally. Neg egophany.
Abd: Bowel sounds present, ND/NT, no hepatosplenomegaly
Ext: Moderately erythematous and swollen on R medial aspect of 
ankle, no TTP.
Skin: Bruising of both knees, especially on the L. Stitched 
upper inner lip and dressed right hand. 
Neuro: ___ strength of TA and gastroc bilaterally.
Psych:  Oriented x3. Alert and attentive (+MOYB). ___ 
registration, ___ spontaneous recall. Good comprehension and 
follows 2-step commands. Articulate, fluent speech. Calculates 7 
quarters in $1.25.
 
Pertinent Results:
ADMISSION
___ 06:56AM   WBC-5.9 RBC-4.54 HGB-13.5 HCT-42.7 MCV-94 
MCH-29.7 MCHC-31.6* RDW-13.2 RDWSD-45.2
___ 06:56AM   NEUTS-75.1* LYMPHS-12.2* MONOS-8.8 EOS-2.7 
BASOS-0.5 IM ___ AbsNeut-4.44 AbsLymp-0.72* AbsMono-0.52 
AbsEos-0.16 AbsBaso-0.03
___ 06:56AM   ___ PTT-26.0 ___
___ 06:56AM   CK(CPK)-62
___ 06:56AM   GLUCOSE-110* UREA N-16 CREAT-0.7 SODIUM-140 
POTASSIUM-4.4 CHLORIDE-103 TOTAL CO2-28 ANION GAP-13
___ 07:18AM   LACTATE-1.5
___ 07:40AM URINE  BLOOD-NEG NITRITE-POS PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-LG
___ 12:10PM   CK-MB-4 cTropnT-0.10*
___ 12:10PM   CK(CPK)-148
___ 06:56AM BLOOD CK-MB-2 cTropnT-0.06*
___ 12:10PM BLOOD CK-MB-4 cTropnT-0.10*
___ 07:30PM BLOOD CK-MB-4 cTropnT-0.03* proBNP-855*

STUDIES
-CT C-spine w/o contrast (___): IMPRESSION: Multilevel 
degenerative changes as noted above, but no evidence of fracture 
or traumatic malalignment. 
-CT Head (___): IMPRESSION: 1. Postsurgical changes in the 
left cerebellar hemisphere as well as evidence of prior 
suboccipital craniectomy. 2. Sequela of prior infarct in the 
right frontal lobe. 3. No evidence of acute hemorrhage or 
traumatic injury to the calvarium or intracranial structures
-R ankle x-ray (___): IMPRESSION: No displaced fracture or 
dislocation of the right ankle. Severe osteopenia 
-Pelvis A/P (___): IMPRESSION: 1. No acute displayed 
fracture of the pelvis 2. Osseous demineralization and 
multifocal osteoarthritic changes, as described above.
-CXR (___): IMPRESSION: 1. No acute displayed fracture of 
the pelvis, 2. Osseous demineralization and multifocal 
osteoarthritic changes, as described above. 
-ECG ___ x2): NSR, prolonged PR interval
-TTE (___): The left atrium and right atrium are normal in 
cavity size. There is mild symmetric left ventricular 
hypertrophy with normal cavity size and regional/global systolic 
function (LVEF>55%). Right ventricular chamber size and free 
wall motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis or aortic regurgitation. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
The pulmonary artery systolic pressure could not be determined. 
There is no pericardial effusion. IMPRESSION: Mild symmetric 
left ventricular hypertrophy with preserved regional and global 
biventricular systolic function. No valvular pathology or 
pathologic flow identified. CLINICAL IMPLICATIONS: Based on ___ 
AHA endocarditis prophylaxis recommendations, the echo findings 
indicate prophylaxis is NOT recommended. Clinical decisions 
regarding the need for prophylaxis should be based on clinical 
and echocardiographic data.  

MICRO
Time Taken Not Noted     Log-In Date/Time: ___ 4:59 pm
      URINE      TAKEN FROM ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      Culture workup discontinued. Further incubation showed 
contamination
      with mixed fecal flora. Clinical significance of 
isolate(s)
      uncertain. Interpret with caution. 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------     4 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

GRAM NEGATIVE ROD(S).    >100,000 ORGANISMS/ML.
-Blood Culture ___: RP

DISCHARGE
___ 05:50AM BLOOD WBC-5.8 RBC-4.41 Hgb-13.2 Hct-41.3 MCV-94 
MCH-29.9 MCHC-32.0 RDW-13.1 RDWSD-44.8 Plt ___
___ 05:50AM BLOOD Glucose-109* UreaN-13 Creat-0.6 Na-142 
K-4.1 Cl-106 HCO3-27 AnGap-13

 
Brief Hospital Course:
Ms. ___ is a ___ yo F with Hx of cerebellar ataxia ___ acoustic 
neuroma, multiple falls and hip fracture repair who presented 
from assisted living s/p unwitnessed fall

#Syncope: Patient's fall was suspicious for a neurologic cause 
given patient's report of loss of balance c/w PMHx of acoustic 
neuroma s/p resection c/b cerebellar ataxia. Mechanical causes 
may have also contributed to this episode, given patient and 
son's concerns over inadequate fall prevention at current 
assisted living facility, patient's fragility, and poor 
eyesight. She also has a UTI, but this was less likely to be the 
cause of her fall given her stable VS and lack of concerns for 
sepsis. Syncope ___ arrhythmia vs. ACS given elevated troponins 
may have been possible; however, her exam, PMH, and ECGs were 
reassuring and Trops trended down. TTE showed no wall motion 
abnormalities and was grossly wnl. Patient was normotensive, 
making dehydration and orthostasis less likely to be the cause 
of her fall. Impact of her fall included upper lip laceration 
(s/p stitches), hand wound, and various bruises, including the 
knees. Imaging of knee, ankle, pelvis, spine showed no acute 
abnormalities. CK levels were reassuring against rhabdomyolysis. 
There were no signs of ICH or subdural hematoma on head CT and 
her mental status was at baseline. She received 325mg ASA in the 
ED and was started on Cipro for her UTI, UCx showed GNR on DC. 

#Troponemia: Pt had uptrending trops in ED 0.06 -> 0.1, MB at 
2->4. Patient denied CP, SOB, w/o hx of CKD. ECGs x2 were w/o 
ST-segment changes. Patient wasn't tachycardic, VSS so not c/f 
sepsis, no focal neurological deficits c/f stroke. TTE showed no 
wall motion abnormalities, was grossly wnl w/LVEF >55%. Trops 
downtrended to 0.03 and MB was stable at 4, was monitored on 
tele for >24hrs w/o incident.

#UTI: Pt had a U/A concerning for large leuks, (+) nitrites, 
WBCs. UCx grew >100K GNR at time of DC. Pt had no leukocytosis, 
she was afebrile w/stable VS. She received 1gm IV CTX in the ED 
and was started on Cipro, finished 3d Abx course before 
discharge.
 
#Lip laceration: s/p sutured in the ED. Pt got Tylenol for pain 
control.

#Hiatal hernia/dysphagia: According to the patient's son, 
patient had a large hiatal hernia. This may have been 
contributing to patient's intermittent dysphagia along with 
possible underlying neurological complications. Pt had large 
volume of secretions when taking in PO. She Tolerated mechanical 
soft diet at home, though she failed a S&S x2. Pt/HCP were made 
aware of the risks involved in allowing the patient to eat, as 
was rec'd to be made NPO by S&S, but they desired that pt be 
allowed to eat ground foods despite the risks. Pt will be DC to 
rehab w/plan for outpatient barium swallow, which may help in 
determining if they would recommend whether she should have thin 
vs. thick liquids. Pt was continued on her omeprazole.

***TRANSITIONAL ISSUES***
-consider starting vit D, calcium supplements as outpatient
-pt was made NPO initially while inpatient due to speech and 
swallow evaluation finding dysphagia and increased secretion 
production. Pt's HCP desiring pt to not be NPO despite S&S recs, 
states this is intermittent recurrent issue and understands 
risks involved, pt was started on ground food diet
-outpt barium swallow to determine whether pt will tolerate thin 
vs thick liquids
#Antibiotics: will complete course of ciprofloxacin on ___. 
Urine culture pending at time of discharge but final 
sensitivities showed E. coli sensitive to cipro (see results 
above).

# CODE: DNR/DNI (confirmed with son)
# CONTACT: Dr. ___ (son)  ___

 
Medications on Admission:
1. Omeprazole 40 mg PO DAILY 

 
Discharge Medications:
1. Omeprazole 40 mg PO DAILY 
2. Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*6 Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
Urinary tract infection
S/p fall
Lip laceration

SECONDARY DIAGNOSES:
Ataxia
Hiatal hernia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___

You were admitted to the hospital due to a urinary tract 
infection and concern for being unstable on your feet. You 
received a dose of IV antibiotics in the ED and then were 
started on oral antibiotics for your UTI. 

You were evaluated by the physical therapy team who felt you 
needed assistance while walking. You should continue using your 
walker. You were also discharged to a new rehab facility. We 
also started you on a ground food diet which you should continue 
as we are worried about the possibility of aspiration while 
eating.

Thank you for letting us be a part of your care! Danke!

Your ___ Team

 
Followup Instructions:
___